** Sources

.subckt TriangleWaveVoltage n+ n-
V1 n+ n- PULSE({V1} {V2} {Tdelay} {tratio*(Tperiod-Ton)} {(1-tratio)*(Tperiod-Ton)} {Ton} {Tperiod} {Ncycles})
.params V1=-1 V2=1 Tdelay=0 Tperiod=1 tratio=0.5 Ton=0.1m*Tperiod Ncycles=0
.ends TriangleWaveVoltage

.subckt 3PhaseWyeSinWaveVoltage R S T N
V1 R N SINE({Voffset} {Vamp} {Freq} {Td} {Theta} {Phi} {Ncycles})
V2 S N SINE({Voffset} {Vamp} {Freq} {Td} {Theta} {Phi-120} {Ncycles})
V3 T N SINE({Voffset} {Vamp} {Freq} {Td} {Theta} {Phi+120} {Ncycles})
.params Voffset=0 Vamp=1 Freq=1 Td=0 Theta=0 Phi=0 Ncycles=0
.ends 3PhaseWyeSinWaveVoltage

.subckt DCTransformer n1+ n1- n2+ n2- nc+ nc-
Bi1 n1+ n1- I=-I(Bv1)*V(r)
Bv1 n2+ n2- V=V(n1+,n1-)*V(r)
B1 r 0 V=(V(nc+,nc-)-Vc1)/(Vc2-Vc1)
.params Vc1=0 Vc2=1
.ends DCTransformer
